US05925627
2-(1-Phenylthiocycloprop-1-yl)oxy-5-(trifluoromethoxy)benzeneamine
Iron powder (13.5 g, 241 mmol) was added to a suspension of 2-(1-phenylthiocycloprop-1-yl)oxy-5-(trifluoromethoxy)nitrobenzene (Description 4, 11.27 g, 30.1 mmol) in water (300 mL) and acetic acid (75 mL) and the mixture was stirred at 80° C. overnight. The mixture was cooled and filtered through celite, washing with ether. The filtrate was extracted with ether, the combined organic fractions were washed with aqueous sodium hydroxide (1M), dried (MgSO4), and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with hexane/Et2O (90:10 increasing to 80:20), to give the title compound as a yellow solid (8 g, 78%). 1H HMR (360 MHz, CDCl3) δ 7.48 (2H, m), 7.34-7.23 (3H, m), 7.15 (1H, d, J 8.74 Hz), 6.60-6.56 (2H, m), 3.78 (2H, br s), 1.49-1.46 (2H, m), and 1.39-1.35 (2H, m).

reactant | 2-(1-phenylthiocycloprop-1-yl)oxy-5-(trifluoromethoxy)nitrobenzene | 30.1 mmol, 11.27 g | C1(=CC=CC=C1)SC1(CC1)OC1=C(C=C(C=C1)OC(F)(F)F)[N+](=O)[O-] | C16H12F3NO4S
solvent | water | 300 mL | O | H2O
solvent | acetic acid | 75 mL | C(C)(=O)O | C2H4O2
catalyst | Iron | 241 mmol, 13.5 g | [Fe] | Fe
product | 2-(1-Phenylthiocycloprop-1-yl)oxy-5-(trifluoromethoxy)benzeneamine | 8 g, 78% | C1(=CC=CC=C1)SC1(CC1)OC1=C(C=C(C=C1)OC(F)(F)F)N | C16H14F3NO2S
